US05006563
1-(3-Chlorophenyl)-3-[3-(dimethylamino)phenoxy]-2-propanone
A solution of 10.0 g of 3-chlorobenzyl chloride in 75 ml of dry ether was added slowly to 2.25 g of magnesium powder in 75 ml of dry ether under nitrogen. The Grignard reagent was stirred at ambient temperature for one hour and then added to a solution of 5.47 g of 3-(dimethylamino)phenoxyacetonitrile in 200 ml of dry ether stirred at 0° C. The reaction was warmed to room temperature overnight and then quenched with of NH4Cl solution. The mixture was diluted with of water and the layers separated. The aqueous phase was extracted with ethyl acetate and the combined organic extracts were dried (Na2SO4), filtered, and evaporated. The residue was purified by flash chromatography (silica gel; 8:1 hexane-ethyl acetate) and recrystallized from ethyl acetate-hexane to give 4.3 g of 1-(3-chlorophenyl)-3-[3-dimethylamino)phenoxy]-2-propanone, m.p. 82°-83° C.

reactant | 3-chlorobenzyl chloride | 10.0 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
reactant | magnesium | 2.25 g | [Mg] | Mg
reactant | 3-(dimethylamino)phenoxyacetonitrile | 5.47 g | CN(C=1C=C(OCC#N)C=CC1)C | C10H12N2O
reactant | ether | 75 ml | CCOCC | C4H10O
reactant | ether | 75 ml | CCOCC | C4H10O
reactant | ether | 200 ml | CCOCC | C4H10O
product | 1-(3-Chlorophenyl)-3-[3-(dimethylamino)phenoxy]-2-propanone | ClC=1C=C(C=CC1)CC(COC1=CC(=CC=C1)N(C)C)=O | C17H18ClNO2
